US08835488B2
To a solution of 2-[(9R)-9-(pyridin-2-yl)-6-oxaspiro[4.5]decan-9-yl]acetaldehyde (50 mg, 0.19 mmole), 5 mL DCM and NA2SO4 (134 mg, 0.95 mmole) was added 2-(pyridin-3-yl)ethan-1-amine (31 mg, 0.25 mmole) and the reaction was stirred overnight. NaBH4 (9.5 mg, 0.25 mmole) added, stir 10 minutes, 2 drops MeOH added, stir 1 h, quenched with water, organics separated off and evaporated. The residue was passed through a Gilson reverse phase HPLC to give {2-[(9R)-9-(pyridin-2-yl)-6-oxaspiro[4.5]decan-9-yl]ethyl}[2-(pyridin-3-yl)ethyl]amine, 65.3 mg (71%). LCMS m/z 367.1 (M+1) observed.

reactant | 2-[(9R)-9-(pyridin-2-yl)-6-oxaspiro[4.5]decan-9-yl]acetaldehyde | 0.19 mmole, 50 mg | N1=C(C=CC=C1)[C@@]1(CCOC2(CCCC2)C1)CC=O | C16H21NO2
reactant | 2-(pyridin-3-yl)ethan-1-amine | 0.25 mmole, 31 mg | N1=CC(=CC=C1)CCN | C7H10N2
reactant | NaBH4 | 0.25 mmole, 9.5 mg | [BH4-].[Na+]
catalyst | MeOH | 2 drops | CO | CH4O
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | {2-[(9R)-9-(pyridin-2-yl)-6-oxaspiro[4.5]decan-9-yl]ethyl}[2-(pyridin-3-yl)ethyl]amine | N1=C(C=CC=C1)[C@@]1(CCOC2(CCCC2)C1)CCNCCC=1C=NC=CC1 | C23H31N3O
